US05612377
1-Hydroxy-1-(1-ethylpropyl)-3-(4'-octyloxybiphenyl-4-yl)urea
Using the general method of Compound 76, 4'-octyloxy-4-biphenylcarboxylic acid (3.26 g, 10 mmole) was converted to the isocyanate then reacted with N-(1-ethylpropyl)hydroxylamine (1.4 g, 13.5 mmole) to provide 2.0 g of the desired product as a light tan crystalline solid, m.p. 151°-152.5° C. Analysis: Calculated for C26H38N2O3 : %C, 73.20; %H, 8.98; %N, 6.57; Found: %C, 73.19; %H, 9.01; %N, 6.50.

reactant | 4'-octyloxy-4-biphenylcarboxylic acid | 10 mmole, 3.26 g | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C21H26O3
reactant | isocyanate | [N-]=C=O
reactant | N-(1-ethylpropyl)hydroxylamine | 13.5 mmole, 1.4 g | C(C)C(CC)NO | C5H13NO
product | 1-Hydroxy-1-(1-ethylpropyl)-3-(4'-octyloxybiphenyl-4-yl)urea | 2.0 g | ON(C(=O)NC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCCC)C(CC)CC | C26H38N2O3
